US07544812B2
A solution of 2-(4-{3-[1-(3,4-dimethyl-benzyl)-2-oxo-imidazolidin-4-yl]-propyl}-phenoxy)-2-methyl-propionic acid tert-butyl ester (0.051 g, 0.106 mmol) in CH2Cl2 (3 mL) was treated with trifluoroacetic acid (0.5 mL) and stirred at room temperature under N2 for 5 h. The solvent removed in vacuo to give crude acid that was purified by flash chromatography using 94:6 CH2Cl2:MeOH to afford 0.011 g (24%) 2-(4-{3-[1-(3,4-dimethyl-benzyl)-2-oxo-imidazolidin-4-yl]-propyl}-phenoxy) -2-methyl-propionic acid. MS (ES+) Calc'd for C25H33N2O4 (M+1) 425. Found m/z 425 (100%). 1H NMR.

reactant | 2-(4-{3-[1-(3,4-dimethyl-benzyl)-2-oxo-imidazolidin-4-yl]-propyl}-phenoxy)-2-methyl-propionic acid tert-butyl ester | 0.106 mmol, 0.051 g | C(C)(C)(C)OC(C(C)(C)OC1=CC=C(C=C1)CCCC1NC(N(C1)CC1=CC(=C(C=C1)C)C)=O)=O | C29H40N2O4
reactant | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-{3-[1-(3,4-dimethyl-benzyl)-2-oxo-imidazolidin-4-yl]-propyl}-phenoxy) -2-methyl-propionic acid | 0.011 g, 24% | CC=1C=C(CN2C(NC(C2)CCCC2=CC=C(OC(C(=O)O)(C)C)C=C2)=O)C=CC1C | C25H32N2O4
